US08895745B2
3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid N′-(2,2-di methyl propionyl) hydrazide (875 mg, 2.27 mmol) was suspended in anhydrous THF (15 mL) under a nitrogen atmosphere. Pyridine (0.388 mL, 4.76 mmol) and tosyl chloride (518 mg, 2.72 mmol) were added and the mixture was heated to 70° C. overnight. The reaction was cooled and partitioned between EtOAc and 1M HCl. The aqueous fraction was basified with 2M sodium carbonate solution and extracted with CH2Cl2. The organic phase was dried through a phase separation cartridge and evaporated to give 7-(5-tert-Butyl-[1,3,4]-oxadiazol-2-yl)-3-iodo-imidazo[1,2-a]pyridine (70 mg) as a white solid.

reactant | 3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid N′-(2,2-di methyl propionyl) hydrazide | 2.27 mmol, 875 mg | CC(C(=O)NNC(=O)C1=CC=2N(C=C1)C(=CN2)I)(C)C | C13H15IN4O2
reactant | Pyridine | 4.76 mmol, 0.388 mL | N1=CC=CC=C1 | C5H5N
reactant | tosyl chloride | 2.72 mmol, 518 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 7-(5-tert-Butyl-[1,3,4]-oxadiazol-2-yl)-3-iodo-imidazo[1,2-a]pyridine | 70 mg | C(C)(C)(C)C1=NN=C(O1)C1=CC=2N(C=C1)C(=CN2)I | C13H13IN4O
